US07714132B2
1b) 2-tert.-Butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indole:
A solution of di-tert.-butyl-dicarbonate (7.3 ml, 35.2 mmol) in dry dichloromethane (100 ml) is added to a mixture of 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (7.0 g, 33.5 mmol) and DIEA (20 ml, 117 mmol) in dry dichloromethane (200 ml). After stirring at rt for 2 h, water (100 ml) and 2N aqueous KHSO4 solution (60 ml) are added. The organic layer is separated and washed successively with water and brine, dried over Mg2SO4, filtered and evaporated, affording crude sub-title compound as yellow oil, which solidified upon standing and is used in the next step without further purification. tR (LC-2) 2.31 min; ESI-MS (positive ion): m/z 295.37 [M+Na]+ (calcd 272.34 for C16H20N2O2).

reactant | di-tert.-butyl-dicarbonate | 35.2 mmol, 7.3 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 33.5 mmol, 7.0 g | Cl.C1NCCC=2NC=3C=CC=CC3C21
reactant | DIEA | 117 mmol, 20 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | 2N, 60 ml | OS(=O)(=O)[O-].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-tert.-Butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indole | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C=CC=CC23)CC1 | C16H20N2O2
